US05227398
3,4-Methylenedioxyaniline (30.7 g) was dissolved in 300 ml of dry tetrahydrofuran, followed by the addition of 10.7 g of sodium hydride (in oil, 60%) and 22.7 ml of methyl bromoacetate under ice cooling. Under an argon stream, the resultant mixture was stirred at room temperature for 2 days. The reaction mixture was extracted with ether. The organic layer so obtained was washed with water, shaken together with a saturated aqueous NaCl solution and then dried over anhydrous sodium sulfate. The solvent was distilled off, whereby reddish brown crystals were obtained. The crude crystals were decolored and then recrystallized from methanol, whereby 28.0 g of methyl 2-[N-(3,4-methylenedioxyphenyl)amino]acetate were obtained.

reactant | 3,4-Methylenedioxyaniline | 30.7 g | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | sodium hydride | 10.7 g | [H-].[Na+]
reactant | methyl bromoacetate | 22.7 ml | BrCC(=O)OC | C3H5BrO2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | methyl 2-[N-(3,4-methylenedioxyphenyl)amino]acetate | 28.0 g | C1OC=2C=C(C=CC2O1)NCC(=O)OC | C10H11NO4
